US04959485
1-Amino-2-chlorodibenzofuran-4-carboxylic acid
When the procedure of Example 15 is followed however methyl 1-acetylamino-2-chloro-5a,6,7,8,9,9a-hexahydrodibenzofuran-4-carboxylate is replaced by methyl 1-acetylamino-2-chloro-6,7,8,9-tetrahydrodibenzofuran-4-carboxylate or methyl 1-acetylamino-2-chlorodibenzofuran-4-carboxylate then the captioned products are prepared.

reactant | methyl 1-acetylamino-2-chloro-5a,6,7,8,9,9a-hexahydrodibenzofuran-4-carboxylate | C(C)(=O)NC1=C(C=C(C=2OC3C(C21)CCCC3)C(=O)OC)Cl | C16H18ClNO4
reactant | methyl 1-acetylamino-2-chloro-6,7,8,9-tetrahydrodibenzofuran-4-carboxylate | C(C)(=O)NC1=C(C=C(C=2OC3=C(C21)CCCC3)C(=O)OC)Cl | C16H16ClNO4
reactant | methyl 1-acetylamino-2-chlorodibenzofuran-4-carboxylate | C(C)(=O)NC1=C(C=C(C=2OC3=C(C21)C=CC=C3)C(=O)OC)Cl | C16H12ClNO4
product | 1-Amino-2-chlorodibenzofuran-4-carboxylic acid | NC1=C(C=C(C=2OC3=C(C21)C=CC=C3)C(=O)O)Cl | C13H8ClNO3
